US05332739
Synthesis of 1,3-dimethyl-6-[4-(3-[2-chlorophenoxy]-propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride (Compound 95):
The same treatment as in Example 3 was effected except that 4-chlorophenol was replaced with 2-chlorophenol, thereby obtaining 8.2 g of the crystals of 1,3-dimethyl-6-[4-(3-[2-chlorophenoxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.

reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 2-chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | 1,3-dimethyl-6-[4-(3-[2-chlorophenoxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | CN1C(N(C(C=C1N1CCN(CC1)CCCOC1=C(C=CC=C1)Cl)=O)C)=O | C19H25ClN4O3
product | 1,3-dimethyl-6-[4-(3-[2-chlorophenoxy]-propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride | 8.2 g | Cl.CN1C(N(C(C=C1N1CCN(CC1)CCCOC1=C(C=CC=C1)Cl)=O)C)=O | InChI=1S/C19H25ClN4O3.ClH/c1-21-17(14-18(25)22(2)19(21)26)24-11-9-23(10-12-24)8-5-13-27-16-7-4-3-6-15(16)20;/h3-4,6-7,14H,5,8-13H2,1-2H3;1H
